US09119868B2
A solution of 50.0 g (80.0 mmol) of crude 6-(N-(4-bromo-3-chloro-5-(hydroxymethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide in 500 mL of THF was treated with 42.1 mL (241 mmol) of DIEA followed by 15.3 mL (201 mmol) of MOM-Cl and the resulting solution was heated to 50° C. with stirring. After 18 hours LCMS indicated complete reaction. The solution was cooled to RT and diluted with 600 mL of EtOAc followed by 600 mL of water. After stirring vigorously for 10 minutes the mixture was transferred to a separatory funnel and the phases separated. The aqueous phase was extracted with one additional 200 mL portion of EtOAc. The combined EtOAc solutions were washed with an aqueous solution of 5% citric acid and 5% NaCl (3×300 mL), saturated aqueous sodium bicarbonate (2×300 mL), saturated brine (1×300 mL), and dried over sodium sulfate. The drying agent was removed by filtration and the filtrate concentrated to dryness at reduced pressure to give an orange-brown foam. This material was dissolved in 250 mL of EtOAc and the solution heated to reflux with stirring. To the solution was added 375 mL of hexane over a 5 minute period maintaining reflux temperature. The solution was then allowed to cool to RT with stirring during which time a light tan solid crystallized. After 2 hours the solution was cooled in an ice water bath and stirred for an additional 2 hours. The solid was collected by filtration in a medium fritted funnel. The filter cake was washed with 250 mL of cold 3:2 hexane/EtOAc, dried by suction filtration for 30 minutes, and then dried in vacuo to give 36.4 g of 6-(N-(4-bromo-3-chloro-5-((methoxymethoxy)methyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide as a light tan solid. 1H NMR (400 MHz, DMSO-d6) ppm 8.49 (q, J=4.30 Hz, 1H) 8.14 (s, 1H) 7.93-8.00 (m, 2H) 7.62 (d, J=2.74 Hz, 1H) 7.52 (d, J=2.74 Hz, 1H) 7.40 (t, J=8.94 Hz, 2H) 7.21 (s, 1H) 4.68 (s, 2H) 4.57 (s, 2H) 3.44 (s, 3H) 3.24 (s, 3H) 2.83 (d, J=4.59 Hz, 3H) 2.06-2.19 (m, 1H) 0.74-1.05 (m, 3H) 0.44 (br. s., 1H).

reactant | 6-(N-(4-bromo-3-chloro-5-(hydroxymethyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 80.0 mmol, 50.0 g | BrC1=C(C=C(C=C1CO)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)Cl | C27H23BrClFN2O5S
reactant | DIEA | 241 mmol, 42.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | MOM-Cl | 201 mmol, 15.3 mL | C(OC)Cl | C2H5ClO
reactant | water | 600 mL | O | H2O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 600 mL | CCOC(=O)C | C4H8O2
solvent | EtOAc | 250 mL | CCOC(=O)C | C4H8O2
solvent | hexane | 375 mL | CCCCCC | C6H14
product | 6-(N-(4-bromo-3-chloro-5-((methoxymethoxy)methyl)phenyl)methylsulfonamido)-5-cyclopropyl-2-(4-fluorophenyl)-N-methylbenzofuran-3-carboxamide | 36.4 g | BrC1=C(C=C(C=C1COCOC)N(S(=O)(=O)C)C1=CC2=C(C(=C(O2)C2=CC=C(C=C2)F)C(=O)NC)C=C1C1CC1)Cl | C29H27BrClFN2O6S
